US08119676B2
tert-Butyl 5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (VIa)
A solution of 8.17 (33.9 mmol) of ethyl 6-chloro-2-oxo-2,3-dihydro-benzimidazole-1-carboxylate (Va) in tetrahydrofuran (120 ml) was mixed with 8.89 g (40.7 mmol) of Boc2O and a catalytic amount of DMAP and stirred at room temperature for 1 h. Then 3.81 ml (44.1 mmol) of isopropylamine were added to the reaction solution, and it was stirred for a further 20 min. The reaction solution was concentrated in vacuo and slurried with heptane. The solid was filtered off, washed with heptane and dried in vacuo.

reactant | ethyl 6-chloro-2-oxo-2,3-dihydro-benzimidazole-1-carboxylate | ClC=1C=CC2=C(N(C(N2)=O)C(=O)OCC)C1 | C10H9ClN2O3
reactant | Boc2O | 40.7 mmol, 8.89 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | isopropylamine | 44.1 mmol, 3.81 ml | C(C)(C)N | C3H9N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate | ClC1=CC2=C(N(C(N2)=O)C(=O)OC(C)(C)C)C=C1 | C12H13ClN2O3
